US06331556B2
7-Methoxy-2-methoxymethylbenzofuran-4-carboxylic acid (2,4-dimethyl-2H-pyrazol-3-yl)-amide
Starting from 7-methoxy-2-methoxymethylbenzofuran-4-carboxylic acid (0.1 g) and 2,4-dimethyl-2-H-pyrazol-3-ylamine (56 mg). Purification by column chromatography on silica eluting with 20% heptane in ethyl acetate and gradient preparative HPLC on a Phenomenex LUNA(2)™ C18 column eluting with 0.05% trifluoroacetic acid in 20%-65% acetonitrile in water gave the title compound as a pale yellow solid (39 mg).

reactant | 7-methoxy-2-methoxymethylbenzofuran-4-carboxylic acid | 0.1 g | COC=1C=CC(=C2C=C(OC21)COC)C(=O)O | C12H12O5
reactant | 2,4-dimethyl-2-H-pyrazol-3-ylamine | 56 mg | CN1N=CC(=C1N)C | C5H9N3
product | 7-Methoxy-2-methoxymethylbenzofuran-4-carboxylic acid (2,4-dimethyl-2H-pyrazol-3-yl)-amide | 39 mg | CN1N=CC(=C1NC(=O)C=1C=CC(=C2C1C=C(O2)COC)OC)C | C17H19N3O4
